US07067540B2
methyl 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-2-furoate
To a room temperature suspension of 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (330.1 mg, 1.00 mmol)) and NaH (48.0 mg, 2.0 mmol) in THF (1.6 mL) was added methyl-5-chloromethyl-2-furate (400 mg, 2.30 mmol). The resulting suspension was stirred and heated to 68° C. for 8 hours until complete consumption of starting material by LCMS analysis. The reaction mixture was then diluted with ammonium chloride (saturated aqueous solution, 10 mL) and water (100 mL). This resulting emulsion was then extracted with ethyl acetate (3×300 mL). The resulting organic extract was separated, Na2SO4 dried, and concentrated. The resulting dark residue was subjected to SiO2 chromatography with ethyl acetate/hexanes (3:7) to furnish a solid. 1H NMR (400 MHz, CDCl3) δ 7.53 (app q, J=8.2 Hz, 1H), 7.07 (d, J=3.5 Hz, 1H), 6.93 (app dt, J=8.4, 1.5 Hz, 1H), 6.84 (app ddd, J=10.2, 8.7, 2.4 Hz, 1H), 6.53 (d, J=3.4 Hz, 1H), 6.00 (s, 1H), 5.27 (s, 2H), 5.18 (s, 2H), 3.85 (s, 3H), 2.54 (s, 3H); LC/MS C-18 column, tr=2.64 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 468 (M+H). ES-HRMS m/z 468.0276 (M+H calcd for C20H17BrF2NO5 requires 468.0253).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 1.00 mmol, 330.1 mg | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | NaH | 2.0 mmol, 48.0 mg | [H-].[Na+]
reactant | methyl-5-chloromethyl-2-furate | 2.30 mmol, 400 mg | COC(=O)C=1OC(=CC1)CCl | C7H7ClO3
reactant | acetonitrile water | C(C)#N.O
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | water | 100 mL | O | H2O
product | methyl 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-2-furoate | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=CC=C(O1)C(=O)OC)=O | C20H16BrF2NO5
